US09259470B2
(S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyrimidin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.034 g, 0.060 mmol) was placed in THF (5 mL) at room temperature. Tetra-n-butylammonium fluoride (“TBAF”) (0.18 mL, 0.18 mmol) was added to the mixture. The mixture was stirred for 1 hour, then poured into water, and extracted with DCM. The combined organic fractions were dried (MgSO4), filtered, and concentrated to give the crude product, which was purified by column chromatography (0-5.5% MeOH in DCM) to give the product (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((2-methylpyrimidin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.005 g, 18% yield). m/z (APCI-pos) M+1=453.

reactant | (S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyrimidin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.060 mmol, 0.034 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1=NC(=NC=C1)C)=O | C28H32ClFN6O2Si
reactant | Tetra-n-butylammonium fluoride | 0.18 mmol, 0.18 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((2-methylpyrimidin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.005 g, 18% yield | ClC1=C(C=C(C=C1)[C@@H](CO)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1=NC(=NC=C1)C)=O)F | C22H18ClFN6O2
